US05276154
The resulting THF solution of 1-naphthylmagnesium bromide was cooled to room temperature. Then, a THF (200 ml) solution of (-)-camphor (50 g, 0.328 mol) was added thereto, and the whole was heated under reflux for 72 hours. The reaction was terminated by cooling with ice-water and adding saturated ammonium chloride aq solution. Then, the organic layer was filtered off, and the solid residue was treated with 10% hydrochloric acid and extracted with diethyl ether. The combined organic layer was dried over anhydrous magnesium sulfate and, after filtration, concentrated to give 121 g of a crude (1S)-2-(1-naphthyl)-1,7,7-trimethylbicyclo[2.2.1]heptan-2-ol as an oil.

reactant | 1-naphthylmagnesium bromide | C1(=CC=CC2=CC=CC=C12)[Mg]Br
reactant | (-)-camphor | 0.328 mol, 50 g | C[C@]12CC[C@H](C1(C)C)CC2=O | C10H16O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | (1S)-2-(1-naphthyl)-1,7,7-trimethylbicyclo[2.2.1]heptan-2-ol | 121 g | C1(=CC=CC2=CC=CC=C12)C1([C@]2(CCC(C1)C2(C)C)C)O | C20H24O
